US08007069B2
2,5-dimethyl-2,5-di(t-butylperoxy)hexyne;
2,5-dimethyl-2,5-di(t-butylperoxy)hexane; dicumylperoxide (DCP).

reactant | 2,5-dimethyl-2,5-di(t-butylperoxy)hexane | CC(C)(CCC(C)(OOC(C)(C)C)C)OOC(C)(C)C | C16H34O4
reactant | dicumylperoxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
product | 2,5-dimethyl-2,5-di(t-butylperoxy)hexyne | CC(C)(C#CC(C)(OOC(C)(C)C)C)OOC(C)(C)C | C16H30O4
